US08026234B2
Ethyl 3-(cyclopentylamino)-2,2-difluoropropanoate:
To a round bottom flask was added Ethyl 3-amino-2,2-difluoropropanoate (1.31 g, 4.9 mmol), THF (50 mL), cyclopentanone (0.46 mL, 5.1 mmol), and NaOAc (400 mg, 4.9 mmol). To this mixture was added sodium triacetoxyborohydride (1.6 g, 7.3 mmol) portionwise over 15 minutes. The reaction was left to stir overnight. It was then added slowly to a stirring solution of ice (30 mL), NaHCO3 (sat., 10 mL), and EtOAc (100 mL) cooled in an ice-salt bath. The layers were then separated and the aqueous pH further adjusted to 11 using 25% NaOH while cooling in the bath. The aqueous layer was washed with EtOAc (2×50 mL), the organic extracts combined, washed with cold NaHCO3, (sat. 20 mL×2) brine (20 mL), dried over MgSO4, filtered and concentrated to yield the desired product as a clear syrup (960 mg, 89%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.25 (t, J=7.07 Hz, 2H) 1.34-1.74 (m, 8H) 3.00 (q, 1H) 3.11 (t, J=14.15 Hz, 2H) 4.27 (q, J=7.07 Hz, 2H). [M+H] calc'd for C10H17F2NO2, 222. found 222.

reactant | Ethyl 3-amino-2,2-difluoropropanoate | 4.9 mmol, 1.31 g | NCC(C(=O)OCC)(F)F | C5H9F2NO2
reactant | cyclopentanone | 5.1 mmol, 0.46 mL | C1(CCCC1)=O | C5H8O
reactant | NaOAc | 4.9 mmol, 400 mg | CC(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 7.3 mmol, 1.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Ethyl 3-(cyclopentylamino)-2,2-difluoropropanoate | 960 mg, 89% | C1(CCCC1)NCC(C(=O)OCC)(F)F | C10H17F2NO2
